US04355036
F. 4-(N-Carboethoxy-piperidylidene)4H-benzo[4,5]-cyclohepta[1,2-b]-thiophene-10(9H)-one
Using the procedure of Example IA, react 21.3 g of N-methylpiperidylidene-4H-benzo-[4,5]-cyclohepta-[1,2-b]-thiophene-10(9H)-one in 300 ml of benzene with a solution of 10.9 g of ethylchloroformate in 300 ml benzene to prepare the title compound.

reactant | N-methylpiperidylidene-4H-benzo-[4,5]-cyclohepta-[1,2-b]-thiophene-10(9H)-one | 21.3 g | CN1C(CCCC1)=C1C2=C(CC(C=3SC=CC31)=O)C=CC=C2 | C19H19NOS
reactant | ethylchloroformate | 10.9 g | C(C)OC(=O)Cl | C3H5ClO2
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 300 ml | C1=CC=CC=C1 | C6H6
product | 4-(N-Carboethoxy-piperidylidene)4H-benzo[4,5]-cyclohepta[1,2-b]-thiophene-10(9H)-one | C(=O)(OCC)N1C(CCCC1)=C1C2=C(CC(C=3SC=CC31)=O)C=CC=C2 | C21H21NO3S
